US08293751B2
4-(2,3-Difluoro-phenylamino)-6-[4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-pyrimidine-5-carbonitrile
To a solution of 4,6-dichloro-pyrimidine-5-carbonitrile (254 mg, 1.47 mmol) and 2,3-difluoroaniline (190 mg, 1.47 mmol) in DMF (3 mL) at 0° C. was added K2CO3 (203 mg, 1.47 mmol). The completion of the reaction was monitored by TLC (EtOAc:Hex 1:1, Rf=0.90). After the completion of the reaction, 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine (340 mg, 1.47 mmol) and K2CO3 (406 mg, 2.94 mmol) were added at 0° C. The reaction was warmed to rt and stirred for 30 min. The reaction was heated to 40° C. and maintained for 1 h. The reaction was cooled to rt, poured in to H2O (50 mL) and extracted with EtOAc (50 mL, two times). The EtOAc was dried over MgSO2 and concentrated under vacuum The crude product was purified over SiO2 (EtOAc:Hex=1:1, Rf=0.49) to afford Compound B130 (501 mg; 76.7%). 1H-NMR (DMSO-d6): 9.60 (1H, s), 8.28 (1H, s), 7.45˜7.29 (3H, m), 4.64 (2H, m), 3.59˜3.52 (4H, m), 3.41˜3.49 (2H, m), 2.29˜2.25 (2H, b), 1.96˜1.86 (2H, m), 1.39 (6H, d) ppm. LCMS: 426.43.

reactant | 4,6-dichloro-pyrimidine-5-carbonitrile | 1.47 mmol, 254 mg | ClC1=NC=NC(=C1C#N)Cl | C5HCl2N3
reactant | 2,3-difluoroaniline | 1.47 mmol, 190 mg | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | K2CO3 | 1.47 mmol, 203 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidine | 1.47 mmol, 340 mg | C(C)(C)C1=NOC(=N1)C1CCNCC1 | C10H17N3O
reactant | K2CO3 | 2.94 mmol, 406 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2,3-Difluoro-phenylamino)-6-[4-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-1-yl]-pyrimidine-5-carbonitrile | FC1=C(C=CC=C1F)NC1=NC=NC(=C1C#N)N1CCC(CC1)C1=NC(=NO1)C(C)C | C21H21F2N7O
